US04001312
To a stirred solution of 10.4 g of 3-(4-fluorobenzoyl)propionic acid and 6.0 g of triethylamine in 120 ml of tetrahydrofuran was added dropwise 6.0 g of ethyl chloroformate at a temperature below 0° C. After stirring was continued for half an hour, to the mixture was added a solution of 9.6 g of 2-(2-ethoxyphenoxy)ethylamine in 10 ml of tetrahydrofuran. Further stirring was continued at room temperature for 4 hours. The reaction mixture was filtered and the filtrate was concentrated to a residue under reduced pressure. The residue was recrystallized from benzene-hexane to give N-[2-(2-ethoxyphenoxy)ethyl]-3-(4-fluorobenzoyl)-propionamide melting at 98° - 100° C.

reactant | 3-(4-fluorobenzoyl)propionic acid | 10.4 g | FC1=CC=C(C(=O)CCC(=O)O)C=C1 | C10H9FO3
reactant | triethylamine | 6.0 g | C(C)N(CC)CC | C6H15N
reactant | ethyl chloroformate | 6.0 g | ClC(=O)OCC | C3H5ClO2
reactant | 2-(2-ethoxyphenoxy)ethylamine | 9.6 g | C(C)OC1=C(OCCN)C=CC=C1 | C10H15NO2
solvent | tetrahydrofuran | 120 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | N-[2-(2-ethoxyphenoxy)ethyl]-3-(4-fluorobenzoyl)-propionamide | C(C)OC1=C(OCCNC(CCC(C2=CC=C(C=C2)F)=O)=O)C=CC=C1 | C20H22FNO4
